US08912336B2
To stirred solution of tert-butyl 5-(2-chlorobenzylsulfonyl)-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate (or the isomer, tert-butyl 6-(2-chlorobenzylsulfonyl)-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate) (0.015 g, 0.031 mmol) in methanol (1 mL) was added 4N HCl in dioxane (0.155 μL, 0.62 mmol). The reaction mixture was stirred for 15 h at room temperature, diluted with Et2O (15 mL) and the white precipitate was filtered and dried under vacuum at 45° C. for 15 h to afford 8.4 mg of 5-(2-chlorobenzylsulfonyl)-2-pyridin-2-yl)-1H-benzo[d]imidazole (59%).

reactant | tert-butyl 5-(2-chlorobenzylsulfonyl)-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate | ClC1=C(CS(=O)(=O)C2=CC3=C(N(C(=N3)C3=NC=CC=C3)C(=O)OC(C)(C)C)C=C2)C=CC=C1 | C24H22ClN3O4S
reactant | tert-butyl 6-(2-chlorobenzylsulfonyl)-2-(pyridin-2-yl)-1H-benzo[d]imidazole-1-carboxylate | ClC1=C(CS(=O)(=O)C=2C=CC3=C(N(C(=N3)C3=NC=CC=C3)C(=O)OC(C)(C)C)C2)C=CC=C1 | C24H22ClN3O4S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.62 mmol, 0.155 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | 1H-benzo[d]imidazole | 59% | N1C=NC2=C1C=CC=C2 | C7H6N2
